US06867205B2
5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(3-methoxy-phenyl)-pyrimidin-4-ylamine
The title compound, MS: m/e=374.8 (M+), was prepared from 3-methoxybenzamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | 3-methoxybenzamidine | COC=1C=C(C(=N)N)C=CC1 | C8H10N2O
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(3-methoxy-phenyl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=CC(=CC=C1)OC)N | C18H16Cl2N4O
